US07863310B2
N-[Methyl]-N-[methoxy]-3-(isobutylamino)-4-nitrobenzamide
Add isobutylamine (8.7 mL) dropwise to a solution of N-[methyl]-N-[methoxy]-3-fluoro-4-nitrobenzamide (2 g, 8.77 mmol) in 80 mL dry acetonitrile at 0° C. Stir the resulting orange solution at room temperature over night. Concentrate under reduced pressure to provide the desired compound (90%).

reactant | isobutylamine | 8.7 mL | C(C(C)C)N | C4H11N
reactant | N-[methyl]-N-[methoxy]-3-fluoro-4-nitrobenzamide | 8.77 mmol, 2 g | CN(C(C1=CC(=C(C=C1)[N+](=O)[O-])F)=O)OC | C9H9FN2O4
solvent | acetonitrile | 80 mL | C(C)#N | C2H3N
product | N-[Methyl]-N-[methoxy]-3-(isobutylamino)-4-nitrobenzamide | 90% | CN(C(C1=CC(=C(C=C1)[N+](=O)[O-])NCC(C)C)=O)OC | C13H19N3O4
